US03951981
Preparation of 10-(Piperidino)-4H-thieno[3,4-b] [1,5] benzodiazepine
A solution of 0.7 g. of 10-(methylthio)-4H-thieno[3,4-b] [1,5] benzodiazepine in 5 ml. of piperidine is treated with a drop of glacial acetic acid and heated under reflux for 4 days. Excess piperidine is removed under reduce pressure and the oily residue is warmed with dilute acetic acid and filtered. The filtrate is cooled and made alkaline with concentrated ammonium hydroxide to give a yellow solid. Recrystallization from acetone-petroleum ether (30°-60°C.) gives yellow crystals, m.p. 157°-159°C.

reactant | 10-(methylthio)-4H-thieno[3,4-b] [1,5] benzodiazepine | CSC=1C=2C(NC3=C(N1)C=CC=C3)=CSC2 | C12H10N2S2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 10-(Piperidino)-4H-thieno[3,4-b] [1,5] benzodiazepine | N1(CCCCC1)C=1C=2C(NC3=C(N1)C=CC=C3)=CSC2 | C16H17N3S
